US07674815B2
To a solution of 300 mg (1.68 mmol) of benzo[b]thiophene-2-carboxylic acid in DMF (8 ml) were added 320 mg (1.68 mmol) of 2-(3,4-dichloro-phenyl)-ethylamine and 595 mg (1.85 mmol) of TBTU. After 10 min 1.47 ml (8.42 mmol) of N,N-diisopropylethyl amine were added and the reaction mixture was stirred over night at RT. Then water was added and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with water, brine, sat. NaHCO3 solution, 1N HCl and again with brine. The organic layer was then dried (MgSO4) and concentrated. The remaining residue was purified by column chromatography (silica gel; ethyl acetate/cyclohexane 9:1) to yield 515 mg (87%) of benzo[b]thiophene-2-carboxylic acid[2-(3,4-dichloro-phenyl)-ethyl]-amide as a white solid. MS (ISP) 350.2 (M+H)+.

reactant | benzo[b]thiophene-2-carboxylic acid | 1.68 mmol, 300 mg | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 1.68 mmol, 320 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | TBTU | 1.85 mmol, 595 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 8.42 mmol, 1.47 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | benzo[b]thiophene-2-carboxylic acid[2-(3,4-dichloro-phenyl)-ethyl]-amide | 515 mg, 87% | ClC=1C=C(C=CC1Cl)CCNC(=O)C1=CC2=C(S1)C=CC=C2 | C17H13Cl2NOS
